US08357707B2
Stage G.1: (3R,7aR)-7a-Methoxymethyl-3-trichloromethyl-tetrahydro-pyrrolo[1,2-c]oxazol-1-one
A 1M of solution of lithium diisopropylamide in a 3:5 mixture of hexanes/THF (8.25 ml) was added dropwise to (3R,7aS)-3-trichloromethyl-tetrahydro-pyrrolo[1,2-c]oxazol-1-one (1.51 g, prepared as described by Wang and Germanas Synlett 1999, 33-36.) in THF (5 ml) at −78° C. After stirring 30 minutes at −78° C. methoxymethylchloride (1.14 ml) was added. The RM was then allowed to warm to −30° C. over 3 h and water was added. The aqueous layer was extracted with DCM, the combined organic layers evaporated and the residue was then purified by normal phase chromatography, eluting with DCM, to give the title compound as a pale yellow oil.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (3R,7aS)-3-trichloromethyl-tetrahydro-pyrrolo[1,2-c]oxazol-1-one | 1.51 g | ClC([C@H]1OC([C@H]2N1CCC2)=O)(Cl)Cl | C7H8Cl3NO2
reactant | methoxymethylchloride | 1.14 ml | COCCl | C2H5ClO
reactant | water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (3R,7aR)-7a-Methoxymethyl-3-trichloromethyl-tetrahydro-pyrrolo[1,2-c]oxazol-1-one | COC[C@@]12N([C@H](OC1=O)C(Cl)(Cl)Cl)CCC2 | C9H12Cl3NO3
